US08912188B2
To a solution of methyl 3-(isopropyl(methyl)amino)-2-(1-methyl-1H-benzo[d][1,2,3]triazol-5-yl)quinoxaline-6-carboxylate (110 mg, 0.28 mmol) in methanol (10 ml) was added sodium hydroxide (45 mg, 1.12 mmol) and water (2 ml). The resulting solution was stirred for 2 h at room temperature and concentrated under vacuum, diluted with water (10 ml), and the pH adjusted to 4 with HCl (3N). The solid was collected by filtration to afford 3-(isopropyl(methyl)amino)-2-(1-methyl-1H-benzo[d][1,2,3]triazol-5-yl)quinoxaline-6-carboxylic acid as a yellow solid (56.2 mg, 53%).

reactant | methyl 3-(isopropyl(methyl)amino)-2-(1-methyl-1H-benzo[d][1,2,3]triazol-5-yl)quinoxaline-6-carboxylate | 0.28 mmol, 110 mg | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC2=C(N(N=N2)C)C=C1)C | C21H22N6O2
reactant | sodium hydroxide | 1.12 mmol, 45 mg | [OH-].[Na+]
reactant | water | 2 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 3-(isopropyl(methyl)amino)-2-(1-methyl-1H-benzo[d][1,2,3]triazol-5-yl)quinoxaline-6-carboxylic acid | 56.2 mg, 53% | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC2=C(N(N=N2)C)C=C1)C | C20H20N6O2
